US07547698B2
SYNTHESIS OF 6-[4-(5-FLUORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]IMIDAZO[1,2-B]PYRIDAZINE-2-CARBOXYLIC ACID PENTYLAMIDE
Following the procedure as described in Example 1, making variations only as required to use n-pentylamine in place of isoamylamine to react with 6-[4-(5-fluoro-2-trifluoromethylbenzoyl)piperazin-1-yl]imidazo[1,2-b]pyridazine-2-carboxylic acid ethyl ester, the title compound was obtained as a white solid in 39% yield. 1H NMR (300 MHz, CDCl3) δ 8.16 (s, 1H), 7.76-7.66 (m, 2H), 7.33 (s, 1H), 7.27-7.18 (m, 1H), 7.09-7.03 (m, 1H), 6.89 (d, J=9.9 Hz, 1H), 4.05-3.94 (m, 1H), 3.91-3.8 (m, 1H), 3.69-3.54 (m, 2H), 3.15-3.37 (m, 4H), 3.65-3.29 (m, 2H), 1.67-1.55 (m, 2H), 1.42-1.27 (m, 4H), 0.88 (t, J=6.6 Hz, 3H). 13C NMR (75 MHz, CDCl3) δ 165.9, 162.6, 162.3, 154.8, 138.3, 136.9, 135.6, 129.7, 129.6, 129.57, 129.5, 126.3, 125.1, 125.4, 122.9, 121.4, 118.3, 116.8, 116.5, 114.9, 114.6, 111.9, 46.2, 45.6, 41.2, 39.2, 29.4, 29.1, 22.4, 14.0. MS (ES+) m/z 507 (M+1).

reactant | n-pentylamine | C(CCCC)N | C5H13N
reactant | 6-[4-(5-fluoro-2-trifluoromethylbenzoyl)piperazin-1-yl]imidazo[1,2-b]pyridazine-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C2N(N=C(C=C2)N2CCN(CC2)C(C2=C(C=CC(=C2)F)C(F)(F)F)=O)C1 | C21H19F4N5O3
product | 6-[4-(5-FLUORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]IMIDAZO[1,2-B]PYRIDAZINE-2-CARBOXYLIC ACID PENTYLAMIDE | 39% yield | C(CCCC)NC(=O)C=1N=C2N(N=C(C=C2)N2CCN(CC2)C(C2=C(C=CC(=C2)F)C(F)(F)F)=O)C1 | C24H26F4N6O2
